US09359375B2
(R)-4-(1-amino-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide
To a solution of (R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)propanamide (127 mg, 0.421 mmol) in DMSO (2 mL), K2CO3 (200 mg, 1.45 mmol) and H2O2 (50% aq., 1.00 mL) were added. After being stirred at 100 C for 5 min, the mixture was purified by HPLC to give the titled compound (34 mg). MS 320.3 (M+H); UV 205.3, 294.6 nm

reactant | (R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)propanamide | 0.421 mmol, 127 mg | C(#N)C1=C(C=C(C=C1)N[C@@H](C(=O)N)C)NC1=CC(=NS1)C | C14H15N5OS
reactant | K2CO3 | 1.45 mmol, 200 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 1.00 mL | OO | H2O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (R)-4-(1-amino-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide | 34 mg | NC([C@@H](C)NC1=CC(=C(C(=O)N)C=C1)NC1=CC(=NS1)C)=O | C14H17N5O2S
